US07790756B2
A solution of N-(4-methoxybenzyl)-4-(4-amino-3-fluorophenoxy)pyridin-2-amine (500 mg, 1.47 mmol) in CH2Cl2 (10 mL) was treated with ammonium cerium(IV) nitrate (1.64 g, 2.99 mmol) and the resultant mixture was stirred at RT overnight. The reaction mixture was washed with water, concentrated in vacuo and purified by silica gel chromatography to yield 4-(4-amino-3-fluorophenoxy)pyridin-2-amine (250 mg, 77% yield). 1H NMR (300 MHz, DMSO-d6) δ 7.73 (d, J=6.0 Hz, 1H), 6.88 (dd, J=9.0, 2.0 Hz, 1H), 6.80 (t, J=8.7 Hz, 1H), 6.68 (m, 1H), 6.06 (dd, J=4.5, 1.8 Hz, 1H), 5.84 (s, 2H), 5.75 (d, J=1.5 Hz, 1H), 5.08 (s, 2H); MS (ESI) m/z: 220.3 (M+H+).

reactant | N-(4-methoxybenzyl)-4-(4-amino-3-fluorophenoxy)pyridin-2-amine | 1.47 mmol, 500 mg | COC1=CC=C(CNC2=NC=CC(=C2)OC2=CC(=C(C=C2)N)F)C=C1 | C19H18FN3O2
reactant | ammonium cerium(IV) nitrate | 2.99 mmol, 1.64 g | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-amino-3-fluorophenoxy)pyridin-2-amine | 250 mg, 77% yield | NC1=C(C=C(OC2=CC(=NC=C2)N)C=C1)F | C11H10FN3O
